US04332820
In a 250 ml single-neck flask equipped with a magnetic stirrer and a reflux condenser fitted with a nitrogen bubbler were placed 9.13 g (0.050 moles) of 2-chloro-5-nitrobenzonitrile, 6.39 g (0.0515 moles) of 3-methoxyphenol, 7.10 g (0.0515 moles) of anhydrous potassium carbonate (K2CO3) and 75 ml of acetonitrile. The mixture was heated to reflux and held there for 3 hrs. The reaction mixture was cooled to room temperature and diluted with 150 ml of water. The product separated as a solid. The solid was filtered off, washed thoroughly with water, and air-dried. The air-dried solid was recrystallized from approximately 200 ml of absolute ethanol to give 7.15 g (53% yield) of purified 2-(3-methoxyphenoxy)-5-nitrobenzonitrile, mp 102°-103.5° C.

reactant | 2-chloro-5-nitrobenzonitrile | 0.050 moles, 9.13 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 3-methoxyphenol | 0.0515 moles, 6.39 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | potassium carbonate | 0.0515 moles, 7.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | water | 150 ml | O | H2O
product | 2-(3-methoxyphenoxy)-5-nitrobenzonitrile | 7.15 g, 53% yield | COC=1C=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C=CC1 | C14H10N2O4
